US05236950
10.0 g of phytyl chloride was dropped into a solution of 2.0 g of sodium methoxide dissolved in 70 ml of methanol. The resulting mixture was stirred for 4 hours at 60° C. After the completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue obtained was dissolved in 30 ml of ethyl acetate, and the resulting solution was washed with water. The solution was dried over anhydrous magnesium sulfate and the solvent was removed by distillation under reduced pressure. The residue thus obtained was subjected to distillation (b.p.: 148°-150° C., 1.5 mmHg) to obtain 9.4 g (yield: 95%) of oily methyl phytyl ether.

reactant | phytyl chloride | 10.0 g | C(\C=C(/C)\CCC[C@H](C)CCC[C@H](C)CCCC(C)C)Cl | C20H39Cl
reactant | sodium methoxide | 2.0 g | C[O-].[Na+]
solvent | methanol | 70 ml | CO | CH4O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | methyl phytyl ether | 9.4 g, yield: 95% | C(\C=C(/C)\CCC[C@H](C)CCC[C@H](C)CCCC(C)C)OC | C21H42O
